US07238716B2
Methyl 2-[5-bromo-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetate (1.00 g), tetramethyltin (0.73 g), tetrakis(triphenylphosphine)palladium (0.11 g) and toluene (50 mL) were stirred with heating under reflux under an argon atmosphere for 40 hrs. The reaction mixture was concentrated and the residue was subjected to silica gel column chromatography to give crystals (0.28 g, 32%) of methyl 2-[5-methyl-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetate from a fraction eluted with ethyl acetate-hexane (1:6, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 80-81° C.

reactant | Methyl 2-[5-bromo-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetate | 1.00 g | BrC=1C=CC(=C(C1)CC(=O)OC)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C27H24BrNO5
reactant | tetramethyltin | 0.73 g | C[Sn](C)(C)C
catalyst | tetrakis(triphenylphosphine)palladium | 0.11 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 2-[5-methyl-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetate | 0.28 g, 32% | CC=1C=CC(=C(C1)CC(=O)OC)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C28H27NO5
